US05409943
(b) N-(3-(2-Trifluoromethylbenzyloxy)-2-pyridyl)phenyl-acetamidine hydrochloride
A mixture of 2-amino-3-(2-trifluoromethylbenzyloxy)pyridine (5.36 g, 20 mmol) and ethyl phenylacetimidate hydrochloride (4.39 g, 22 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave an oil which was purified by flash chromatography (chloroform/methanol) and recrystallisation from ethanol/ether to obtain the product (0.41 g), m.p. 105°-112° C.

reactant | 2-amino-3-(2-trifluoromethylbenzyloxy)pyridine | 20 mmol, 5.36 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)C(F)(F)F | C13H11F3N2O
reactant | ethyl phenylacetimidate hydrochloride | 22 mmol, 4.39 g | Cl.C1(=CC=CC=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(2-Trifluoromethylbenzyloxy)-2-pyridyl)phenyl-acetamidine hydrochloride | 0.41 g | Cl.FC(C1=C(COC=2C(=NC=CC2)NC(CC2=CC=CC=C2)=N)C=CC=C1)(F)F | InChI=1S/C21H18F3N3O.ClH/c22-21(23,24)17-10-5-4-9-16(17)14-28-18-11-6-12-26-20(18)27-19(25)13-15-7-2-1-3-8-15;/h1-12H,13-14H2,(H2,25,26,27);1H
